US06211199B1
Combine (1-(t-butoxycarbonyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine (3.2 g, 7.7 mmol), tetrahydrofuran/water (200 mL/200 mL). Add a 1 M aqueous solution of sodium hydroxide (8.4 mL, 8.4 mmol). Heat to reflux. After 18 hours, concentrate the reaction mixture in vacuo to form a solid. Dillute with water, adjust the pH to about 7 using a 1 M aqueous solution of hydrochloric acid, collect the solid by filtration, and dry to give (1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine: Rf=0.38 (silica gel, 20/1 ethyl acetate/methanol).

reactant | (1-(t-butoxycarbonyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | 7.7 mmol, 3.2 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C22H32N4O4
reactant | tetrahydrofuran water | 200 mL | O1CCCC1.O
reactant | sodium hydroxide | 8.4 mmol, 8.4 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | (1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
